US07820699B2
9.2 To a stirred solution of {3-[(5-chloro-thiophene-2-carbonyl)-amino]-piperidin-1-yl}-acetic acid ethyl ester at r.t. in 5 ml ethanol were added 5 ml 1 N NaOH. The slurry slowly turned to a clear solution. Stirring at r.t. was then continued for 5 h. The mixture was neutralized by adding 5 ml of 1 N HCl (pH ˜7). The light orange solution was concentrated to leave an off-white solid. This residue was coevaporated several times with toluene to remove the remaining H2O, and dried overnight (r.t., 0.5 mbar) to give 1.07 g {3-[(5-chloro-thiophene-2-carbonyl)-amino]-piperidin-1-yl}-acetic acid (containing 2 mol equivalents of sodium chloride). Off-white solid. MS 301.3 ([M−H]−)

reactant | {3-[(5-chloro-thiophene-2-carbonyl)-amino]-piperidin-1-yl}-acetic acid ethyl ester | C(C)OC(CN1CC(CCC1)NC(=O)C=1SC(=CC1)Cl)=O | C14H19ClN2O3S
reactant | NaOH | 1 N, 5 ml | [OH-].[Na+]
reactant | HCl | 1 N, 5 ml, pH ˜7 | Cl | ClH
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | {3-[(5-chloro-thiophene-2-carbonyl)-amino]-piperidin-1-yl}-acetic acid | 2 mol, 1.07 g | ClC1=CC=C(S1)C(=O)NC1CN(CCC1)CC(=O)O | C12H15ClN2O3S
